US08138175B2
A) ((R)-2-Hydroxy-pent-4-enyl)-carbamic acid benzyl ester
To a solution of 2-allyl-oxirane (Synthesis 1986, 309; 918 mg, 10.9 mmol) in TBME (12 mL) were added benzyl carbamate (750 mg, 4.96 mmol), 4-nitrobenzoic acid (146 mg, 0.87 mmol) and (1S,2S)-(+)-N—N′-bis(3,5-di-tert-butylsalicylidene)-1,2-cyclohexanediaminocobalt(II) 264 mg, 0.44 mmol) at RT, then after 72 h the reaction mixture was partitioned between TBME and sat. aq. NaHCO3 solution. The organic layer was washed with brine, dried (MgSO4), filtered, and evaporated. Chromatography (SiO2; heptane-EtOAc gradient) produced the title compound (694 mg, 48%). Brown oil, MS: 236.2 (M+H)+.

reactant | 2-allyl-oxirane | 10.9 mmol, 918 mg | C(C=C)C1OC1 | C5H8O
reactant | benzyl carbamate | 4.96 mmol, 750 mg | C(N)(OCC1=CC=CC=C1)=O | C8H9NO2
reactant | 4-nitrobenzoic acid | 0.87 mmol, 146 mg | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
solvent | TBME | 12 mL | CC(C)(C)OC | C5H12O
product | ((R)-2-Hydroxy-pent-4-enyl)-carbamic acid benzyl ester | 694 mg, 48% | C(C1=CC=CC=C1)OC(NC[C@@H](CC=C)O)=O | C13H17NO3
